US08008481B2
Sodium percarbonate (0.040 g, 0.25 mmol) was added to a mixture of 2-amino-4-(7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (prepared via General Procedure N from the reaction of Example #F.8.1 with 6-amino-4-chloro-3-cyano-pyrrolo[2,3-d]pyrimidine [prepared by chlorination of the 4-oxo derivative (J. Med. Chem., 2001, 44(12), 1993-2003) using POCl3 (Tet., 2004, 60, 943-959), 0.10 g, 0.24 mmol) in 1N KOH (2.4 mL) at ambient temperature. After about 21 hours, the reaction mixture was acidified with 5N HCl and filtered. The resulting solid was purified by preparative HPLC (Thermo Hypersil-Keystone 250×21.2 mm 8μ Hypersil® HS C18 column; 5% CH3CN/50 mM aqueous ammonium acetate hold for 5 min, 5-100% CH3CN/50 mM aqueous ammonium acetate over 30 min, hold at 100% CH3CN for 5 minutes, 21 mL/min) to give an impure solid that was triturated with heptane and filtered to give 2-amino-4-(7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide (6.9 mg, 7%); RP-HPLC (Table 1, Method e) Rt 1.64 min; m/z (ESI+): 441.0 (M+H)+.

reactant | Sodium percarbonate | 0.25 mmol, 0.040 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | 2-amino-4-(7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | NC=1N=C(C2=C(N1)NC=C2C#N)NC=2C=C1C=NNC1=C(C2)C2=CC1=C(S2)C=CC=C1 | C22H14N8S
reactant | 6-amino-4-chloro-3-cyano-pyrrolo[2,3-d]pyrimidine | NC1=CC=2C(N=CN(C2Cl)C#N)=N1 | C7H4ClN5
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 5N | Cl | ClH
solvent | KOH | 1N, 2.4 mL | [OH-].[K+]
product | 2-amino-4-(7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide | 6.9 mg, 7% | NC=1N=C(C2=C(N1)NC=C2C(=O)N)NC=2C=C1C=NNC1=C(C2)C2=CC1=C(S2)C=CC=C1 | C22H16N8OS
